US07491821B2
(R)-(2-hydroxy-1-methyl-ethyl)-carbamic acid tert-butyl ester (2.0 g, 11.4 mmol) in 10 mL of CH2Cl2 was added dropwise to a stirred solution of oxalyl chloride (1.1 mL, 12.6 mmol) and DMSO (1.62 mL, 22.8 mmole) in 20 mL of CH2Cl2 at −60° C. The reaction mixture was stirred for 5 minutes before TEA (5.6 ml, 57.1 mmole) was added slowly. The resultant reaction mixture was warmed to room temperature over 1 hour. The organics were washed with water, and the aqueous fractions back extracted with CH2Cl2. The organics were combined and dried over sodium sulfate. The solvent was evaporated under reduced pressure to provide 2.0 g (99%) of (1-methyl-2-oxo-ethyl)-carbamic acid tert-butyl ester (Intermediate VIa) (1H-NMR (CDCl3, ppm) 1.34 d (3H); 1.45 s (9H); 3.10 q (1H); 9.45 (1H)).

reactant | (R)-(2-hydroxy-1-methyl-ethyl)-carbamic acid tert-butyl ester | 11.4 mmol, 2.0 g | C(C)(C)(C)OC(N[C@@H](CO)C)=O | C8H17NO3
reactant | oxalyl chloride | 12.6 mmol, 1.1 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | DMSO | 22.8 mmole, 1.62 mL | CS(=O)C | C2H6OS
solvent | CH2Cl2 | 10 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 20 mL | C(Cl)Cl | CH2Cl2
product | (1-methyl-2-oxo-ethyl)-carbamic acid tert-butyl ester | 2.0 g, 99% | C(C)(C)(C)OC(NC(C=O)C)=O | C8H15NO3
